US05232948
To a solution of 2.00 g (9.0 mmoles) if 3,5-di-(carbmethoxymethyl)phenol in 75 ml acetone is added 1.24 g (9.0 mmoles) of K2CO3 followed by 1.77 g (9.0 mmoles) of cinnamylbromide. This reaction mixture is refluxed for 2 hours, cooled to room temperature, filtered and concentrated down in vacuo. Purification by flash chromatography affords 1,3-di-(carbomethoxymethyl)-5-cinnamyloxybenzene which is used directly in the next step.

reactant | 3,5-di-(carbmethoxymethyl)phenol | C(=O)(OC)CC=1C=C(C=C(C1)CC(=O)OC)O | C12H14O5
reactant | K2CO3 | 9.0 mmoles, 1.24 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cinnamylbromide | 9.0 mmoles, 1.77 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 1,3-di-(carbomethoxymethyl)-5-cinnamyloxybenzene | C(=O)(OC)CC1=CC(=CC(=C1)OCC=CC1=CC=CC=C1)CC(=O)OC | C21H22O5
